US08334292B1
Step 2: Preparation of (R)-3-(4-bromophenoxy)-tetrahydrofuran
A mixture of 4-bromophenol (2.1 g, 12.4 mmole), (S)-tetrahydrofuran-3-yl 4-methylbenzenesulfonate (2.5 g, 10.3 mmole) and K2CO3 (4.3 g, 30.9 mmole) in DMF (15 mL) was heated at 85° C. for 15 h. The mixture was diluted with ethyl acetate, washed with water, dried over MgSO4, filtered, and concentrated under vacuum. The crude product was purified by ISCO (silica gel, elute: 5% ethyl acetate in hexane) to give the title compound (896 mg). MS (ESI) m/z: Found: 244.3 (M++1). Calc. 243.1 (M+).

reactant | 4-bromophenol | 12.4 mmole, 2.1 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | (S)-tetrahydrofuran-3-yl 4-methylbenzenesulfonate | 10.3 mmole, 2.5 g | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H]1COCC1 | C11H14O4S
reactant | K2CO3 | 30.9 mmole, 4.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-(4-bromophenoxy)-tetrahydrofuran | 896 mg | BrC1=CC=C(O[C@H]2COCC2)C=C1 | C10H11BrO2
